US04628045
BOC-Asp(OBzl)-Thr(Bzl)-Asp(OBzl)-Pro-Arg(NO2)-OBzl, was dissolved in a mixture of acetic acid (500 ml), water (500 ml), and methanol (3-5 liters). Palladium 10% on activated carbon (100-200 g) was added to the solution and hydrogen gas passed through the mixture for 20-40 hours. The catalyst was removed by filtration and the filtrate evaporated to dryness. The residue was triturated with ether (3-4 liters), and the resulting solid filtered to produce BOC-Asp-Thr-Asp-Pro-Arg. The yield was about 40-60%.

reactant | BOC-Asp(OBzl)-Thr(Bzl)-Asp(OBzl)-Pro-Arg(NO2)-OBzl | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C56H69N9O15
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
solvent | methanol | 3-5 liters | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | BOC-Asp-Thr-Asp-Pro-Arg | yield was about 40-60% | N([C@@H](CC(O)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(O)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1)C(=O)OC(C)(C)C | C28H46N8O13
